US06235731B1
1) Synthesis of N-[4-(1,2,3,4-tetrahydroisoquinolin-2-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
To a suspension of 1.0 g (4.58 mM) of 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid and 1.05 g (9.12 mM) of N-hydroxysuccinimide in acetonitrile (10 ml) was added 1.76 g (9.18 mM) of N-ethyl-N′-3-(N,N-dimethylamino)propylcarbodiimide hydrochloride at room temperature and the mixture was stirred at the prevailing temperature for 2 hours. To this reaction mixture was added a solution of 1.90 g (6.85 mM) of 2-(4-aminobutan-1-yl)-1,2,3,4-tetrahydroisoquinoline dihydrochloride and 4.0 ml (28.7 mM) of triethylamine in ethanol (10 ml) and the mixture was further stirred for one hour. The solvent was then distilled off under reduced pressure and the residue was diluted with water and extracted with methylene chloride. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over MgSO4, and purified by column chromatography (methanol/ethyl acetate 30%) to provide the title compound as red-purple amorphous substance.

reactant | 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid | 4.58 mM, 1.0 g | N=1C=C2C=C(SC3=CC=CC1N23)C(=O)O | C10H6N2O2S
reactant | N-hydroxysuccinimide | 9.12 mM, 1.05 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N-ethyl-N′-3-(N,N-dimethylamino)propylcarbodiimide hydrochloride | 9.18 mM, 1.76 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-(4-aminobutan-1-yl)-1,2,3,4-tetrahydroisoquinoline dihydrochloride | 6.85 mM, 1.90 g | Cl.Cl.NCCCCN1CC2=CC=CC=C2CC1
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | triethylamine | 28.7 mM, 4.0 ml | C(C)N(CC)CC | C6H15N
product | N-[4-(1,2,3,4-tetrahydroisoquinolin-2-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | C1N(CCC2=CC=CC=C12)CCCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C23H24N4OS
